US07205326B2
A mixture of 3-trifluoromethoxy-benzaldehyde (3 g, 15.78 mmol), malonic acid (2.13 g, 20.51 mmol), piperidine (0.134 g, 1.58 mmol) and pyridine (10 ml) was kept at reflux temperature until carbon dioxide formation ceased (3 h). After cooling to room temperature the reaction mixture was poured onto 60 g ice and 30 ml 6N HCl. The precipitate was isolated, washed with water and dried yielding 2.21 g (60%) 3-(3-trifluoromethoxy-phenyl)-acrylic acid.

reactant | 3-trifluoromethoxy-benzaldehyde | 15.78 mmol, 3 g | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
reactant | malonic acid | 20.51 mmol, 2.13 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1.58 mmol, 0.134 g | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 6N, 30 ml | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3-trifluoromethoxy-phenyl)-acrylic acid | 2.21 g, 60% | FC(OC=1C=C(C=CC1)C=CC(=O)O)(F)F | C10H7F3O3
